US06307047B1
2-(3 4-Difluorophenyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to Example 93, starting with 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 1-bromo-3,4-difluorobenzene in place of 4-bromothioanisole (yield: 310 mg, 65.7%). mp 187-188° C. 1H NMR (300 MHz, CDCl3) δ 3.09 (s, 3H), 7.18 (d, J=9 Hz, 2H), 7.29 (m, 3H), 7.41 (d, J=9 Hz, 2H), 7.52 (m, 1H), 7.65 (m, 1H), 7.92 (d, J=9 Hz, 2H), 8.01 (s, 1H). MS (DCI/NH3) m/z 473 (M+H)+, 490 (M+NH4)+. Anal. calc. for C23H15ClF2N2O3S.0.5 H2O: C, 57.38; H, 3.33; N, 5.82. Found: C, 57.44; H, 3.38; N, 5.52.

reactant | 4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC1=CC=C(C=C1)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H13ClN2O3S
reactant | 1-bromo-3,4-difluorobenzene | BrC1=CC(=C(C=C1)F)F | C6H3BrF2
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 2-(3 4-Difluorophenyl)-4-(4-chlorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C23H15ClF2N2O3S
